US04952707
2-Amino-7-methoxynaphthalene.
2-Amino-7-hydroxynaphthalene (18.6 g, 0.117 mol) was added in portions to hexane-rinsed NaH (60%, 5.1 g, 0.127 mol) in dry DMF (dimethylformamide; 100 ml) at 0° C. The solution was stirred under argon for 10 minutes until hydrogen evolution had ceased, whereupon dimethyl sulfate (11 ml, 0.116 mol) was added dropwise via syringe at 0° C. until O-methylation was complete by TLC monitoring. The reaction was carefully quenched with 6N HCl to pH 1, and partitioned between ether and water, thus separating the naphthylamine hydrochloride from organic impurities. After washing the ether layer with 6N HCl, the aqueous layers were combined, neutralized with NaOH pellets to pH 8 and partitioned with EtOAc to recover the free amine in the organic layer. The basic aqueous layer was washed twice with EtOAc, and the combined EtOAc layers were dried over Na2SO4 and evaporated. Upon removal of DMF under high vacuum, the product mixture crystallized. Crystals of 2-amino-7-methoxynaphthalene (19.4 g, 96.5%) were collected from MeOH, m.p. 157° C.

reactant | 2-Amino-7-hydroxynaphthalene | 0.117 mol, 18.6 g | NC1=CC2=CC(=CC=C2C=C1)O | C10H9NO
reactant | NaH | 0.127 mol, 5.1 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | dimethyl sulfate | 0.116 mol, 11 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | 2-Amino-7-methoxynaphthalene | NC1=CC2=CC(=CC=C2C=C1)OC | C11H11NO
